US04061656
12.0 G. (0.151 mol) of cupric oxide and 12.5 g. (0.0466 mol) of 2,4-dimethyl-3-hydroxymethyl-5-iodothiophene were added to a solution of 12.5 g. (0.543 mol) of sodium in 100 ml. of dry methanol. The reaction mixture was heated to 80°-82° C. (internal temperature) for 20 hrs. with vigorous stirring, then cooled. The cold solution was diluted with 150 ml. of methanol, filtered, poured into ice water and extracted with ether/hexane (ratio 4:1). The organic layers were washed with 5% sodium carbonate solution, dried and evaporated. The residue which resulted was recrystallized from hexane to yield 2,4-dimethyl-3-hydroxymethyl-5-methoxythiophene, m.p. 55°-60° C. This product contained about 10% of 2,4-dimethyl-3-hydroxymethylthiophene which is formed in this reaction by reduction of the iodide. Fraction recrystallization of a sample from hexane yielded pure 2,4-dimethyl-3-hydroxymethyl-5-methylthiophene, m.p. 64°-65° C.

reactant | 2,4-dimethyl-3-hydroxymethyl-5-iodothiophene | 0.0466 mol | CC=1SC(=C(C1CO)C)I | C7H9IOS
reactant | sodium | 0.543 mol | [Na] | Na
reactant | methanol | CO | CH4O
product | 2,4-dimethyl-3-hydroxymethyl-5-methoxythiophene | CC=1SC(=C(C1CO)C)OC | C8H12O2S
